US08685977B2
3-Bromo-4-(3,4-dichlorophenoxy)benzoic acid
Methyl 3-bromo-4-fluorobenzoate (Preparation 122, 500 mg, 2.15 mmol), 3,4-dichlorophenol (350 mg, 2.15 mmol) and caesium carbonate (1.4 g, 4.29 mmol) were stirred in dimethylsulfoxide (10 mL). The reaction mixture was heated to 120° C. and stirred overnight under an atmosphere of nitrogen. A 1M aqueous solution of sodium hydroxide was added and the mixture extracted with ethyl acetate. The aqueous phase was acidified and extracted with ethyl acetate. The organic phase from the second extraction was concentrated in vacuo and the resulting residue was purified by silica gel column chromatography (30%-100% ethyl acetate in heptane) to afford the title compound as a white solid (244 mg, 31%).

reactant | Methyl 3-bromo-4-fluorobenzoate | 2.15 mmol, 500 mg | BrC=1C=C(C(=O)OC)C=CC1F | C8H6BrFO2
reactant | 3,4-dichlorophenol | 2.15 mmol, 350 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | caesium carbonate | 4.29 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-Bromo-4-(3,4-dichlorophenoxy)benzoic acid | 244 mg, 31% | BrC=1C=C(C(=O)O)C=CC1OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O3
